* PoLaRIS 光电协同仿真网表
* 同步时间步: 1.000000e-12 s
* 总时间: 1.000000e-09 s

.include waveguide_soi.va
.include mmi_1x2_soI.va
.include ring_resonator_soi.va
.include mzm_modulator_soi.va
.include photodetector_soi.va

V_in in 0 PULSE(0 0.33 0 1e-12 1e-12 2e-12 8e-12)

X1 in out waveguide_soi
X2 in out1 out2 mmi_1x2_soI
X3 in through ring_resonator_soi
X4 in out rf_in mzm_modulator_soi
X5 in rf_out photodetector_soi


.tran 1.000000e-12 1.000000e-09
.end